US06509329B1
Synthesis of N,N′-bis[[5-(3,4,5-Trimethoxyphenyl)pyridin-3-yl]methyl]homopiperazine
3-Chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine (70 mg) and homopiperazine (12 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base. Yield: 56 mg (76%). 1H-NMR (400 MHz, CDCl3) δ: 1.85 (br, 2H), 2.73 (br, 4H), 2.79 (t, 4H, J=5.9 Hz), 3.73 (s, 4H), 3.90 (s, 6H), 3.94 (s, 12H), 6.76 (s, 4H), 7.82 (s, 2H), 8.53 (d, 2H, J=2.0 Hz), 8.68 (d, 2H, J=2.1 Hz). m/z (EI): 614 [M+].

reactant | 3-Chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine | 70 mg | ClCC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | homopiperazine | 12 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[5-(3,4,5-Trimethoxyphenyl)pyridin-3-yl]methyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C=1C=C(C=NC1)CN1CCN(CCC1)CC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC | C35H42N4O6
